Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Codeine
 
Attending: ___
 
Chief Complaint:
"He touched me and ___ says it's my fault."
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
___ yo female with hx of depression with psychotic features and 
polysubstance abuse who was BIB police intoxicated c/o worsening 
depression and SI.  Pt explains that she has been feeling 
depressed and suicidal for several weeks in context of difficult 
living situation.  ___ with boyfriend and boyfriend's friend 
___, and describes that ___ "touches" her and "tries to have 
sex" with her.  Describes the incident on the night that she 
came into the hospital as one where she was defending herself 
against ___ sexual advances, and that "everyone was drunk."  
Describes having consumed alcohol and used cocaine to ___.  Does admit to 2 suicide attempts in past 2 weeks-one in 
which she attempted to overdose on what she thought was 
percocet, but eventually only took 4 tablets, and then the other 
when she contemplated jumping in front of a train, but states 
that a stranger stopped her from doing so.  Admits to AH, last 
heard about a week ago, telling her that "you're no good."   
 
 
Past Medical History:
Six children four cesarean sections and a tubal ligation.  She
stated that she had a heart murmur and anemia.

 
Social History:
___
Family History:
Mo, sisters EtOH; sister depression
and hx SA; sister w mental retardation

 
Physical Exam:
Vitals:  T 97.6  BP 122/100  HR 88  RR 16   O2 94% RA
HEENT: NC/AT, sclera white, pink conjunctiva, oropharynx clear 
and without exudate
Neck: supple, no carotid bruits, no thyromegaly
Cor:  RRR, nl S1S2
Pulm: CTAB
Abd:  soft, NT, ND
Ext: no c/c/e
Neuro: CN II-XII intact, nonfocal
 
Pertinent Results:
___ 11:20AM   WBC-4.1 RBC-4.77 HGB-10.6* HCT-35.3* MCV-74* 
MCH-22.3* MCHC-30.1* RDW-16.2*
___ 11:20AM   NEUTS-48.5* LYMPHS-46.4* MONOS-4.0 EOS-0.8 
BASOS-0.1
___ 11:20AM   PLT COUNT-267
___ 11:20AM   GLUCOSE-101 UREA N-11 CREAT-0.8 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-105 TOTAL CO2-23 ANION GAP-16
___ 11:20AM   ALT(SGPT)-26 AST(SGOT)-21 ALK PHOS-56 TOT 
BILI-0.4
___ 11:20AM   LIPASE-38
___ 11:20AM   PHOSPHATE-3.7
___ 11:20AM   TSH-0.94
___ 11:20AM   HCG-<5 
___ 11:20AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:13PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 02:13PM URINE  BLOOD-MOD NITRITE-POS PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-5.0 
LEUK-NEG
___ 02:13PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:13PM URINE  ___ BACTERIA-MANY YEAST-NONE 
___. Psychiatric:  Pt was admitted to inpatient psychiatric unit 
for safety, stabilization, milieu therapy, and medication 
management.  Upon admission, pt felt safe on unit, and was not 
actively suicidal.  Was behaviorally in control throughout 
hospital stay.  Medication options were explained to pt, and she 
understood risks/benefits of celexa.  Pt was started on Celexa 
on hospital day 4, and did well without any notable side 
effects. Pt was encouraged to pursue outpatient substance abuse 
treatment, but refused throughout hospitalization. On day of 
discharge, pt was not suicidal, and was safe and appropriate for 
discharge.

2.  Social:  Availability of ___ Violence Prevention and 
Recovery was relayed to pt, who agreed to meet with a 
representative from program. CVPR intern met with pt and 
reviewed options for safe housing upon discharge as well as 
information re: safelink.  CVPR intern completed forms for ___ 
emergency housing and referred to domestic violence advocate at 
___.  Pt also provided with section 8 
housing by social worker on unit. 

3. Medical:  Pt with UA c/w UTI, and urine cx with growth of 
>100,000 E.coli.  Started on ciprofloxacin on day of discharge, 
and provided with script for continued outpatient treatment. 
Will f/u with PCP ___ ___ at 10:30 am at ___ 
___.

4.  Legal: ___
5.  Dispo: Pt discharged with brother, and plans to live at 
brother's home. 
 
Medications on Admission:
denies
 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).
Disp:*30 Tablet(s)* Refills:*0*
2. Cipro 250 mg Tablet Sig: One (1) Tablet PO every twelve (12) 
hours for 5 doses.
Disp:*5 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AXIS I:  Depression NOS
Polysubstance Abuse
AXIS II:  Deferred
AXIS III:  heart murmur, anemia
AXIS IV:  financial stress, relationship stress
AXIS V:  50
 
Discharge Condition:
Stable, improved.  Pt is safe and appropriate for discharge.

Appearance:Casually dressed and groomed, good eye contact.  
Speech:Fluent, normal r/r/v.
Mood: “A lot better.”
Affect:  Smiling, appears euthymic.  Related.  Reactive.
Thought Process:Overinclusive but overall linear
Thought Content:Denies SI.  Denies SI now. Denies HI.  Denies 
paranoia, IOR.
Abnormal Perceptions:Denies

 
Discharge Instructions:
Please follow-up with scheduled outpatient appointments.
Please report to nearest ED if feeling unsafe and/or suicidal. 
 
Followup Instructions:
___